US04804665
2-Methoxy-8-methylcarbamoyl-2,8-diazaspiro[4,5]decane-1,3-dione
To a solution of 2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride (1.5 g) in water (20 ml) was added triethylamine (1 ml), followed by methyl isocyanate (1 ml), and this was followed by stirring at room temperature for 30 minutes. The water was then evaporated off under reduced pressure. The residue was directly subjected to silica gel column chromatography (eluent; chloroform-acetone-methanol=10:3:2 (v/v)), and the solvent for the solution containing the desired product was evaporated off under reduced pressure to obtain 1.4 g of a colorless oily compound.

reactant | 2-methoxy-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride | 1.5 g | Cl.CON1C(C2(CC1=O)CCNCC2)=O
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 1 ml | CN=C=O | C2H3NO
solvent | water | 20 ml | O | H2O
product | 2-Methoxy-8-methylcarbamoyl-2,8-diazaspiro[4,5]decane-1,3-dione | 1.4 g | CON1C(C2(CC1=O)CCN(CC2)C(NC)=O)=O | C11H17N3O4
